US07517889B2
To a solution of 2-(2,3-dihydro-benzofuran-2-ylmethyl)-isoindole-1,3-dione (0.97 g, 3.47 mmol) in MeOH (15 mL) and CH2Cl2 (5 mL) is added hydrazine (0.55 mL, 17.4 mmol). After 20 h at rt, the mixture is filtered off and the filtrate is concentrated. The residue is diluted with water (50 mL), and extracted with CH2Cl2 (2×50 mL). The extracts are dried (MgSO4), filtered, and concentrated to afford C-(2,3-dihydro-benzofuran-2-yl)-methylamine, which is used for a next step without further purification. LCMS: RT=1.25 minutes; MS: 150 (M+H).

reactant | 2-(2,3-dihydro-benzofuran-2-ylmethyl)-isoindole-1,3-dione | 3.47 mmol, 0.97 g | O1C(CC2=C1C=CC=C2)CN2C(C1=CC=CC=C1C2=O)=O | C17H13NO3
reactant | hydrazine | 17.4 mmol, 0.55 mL | NN | H4N2
solvent | MeOH | 15 mL | CO | CH4O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | C-(2,3-dihydro-benzofuran-2-yl)-methylamine | O1C(CC2=C1C=CC=C2)CN | C9H11NO
